US07709466B2
e) 6-(4-Hydroxy-3-methoxy-5-methylaminomethyl-phenyl)-4-(1H-indol-2-yl)-2H-pyridazin-3-one
118 mg of 2-{3-Methoxy-6-[3-methoxy-5-methylaminomethyl-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-pyridazin-4-yl}-indole-1-carboxylic acid tert-butyl ester is dissolved in 5 ml of dichloromethane and 5 ml of trifluoroacetic acid and the solution is stirred for 4 h at RT. The solvents are removed under reduced pressure. The residue is dissolved in 26 ml of acetonitrile and 117 mg of potassium iodide and 76 mg of chlorotrimethylsilane are added. The reaction is heated to 85° C. for 3 h. The reaction is quenched by the addition of a drop of water, the solvent is removed under reduced pressure and the product is purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). Yield 13 mg. LC-MS (ES+) 377 (M+H)+.

reactant | 2-{3-Methoxy-6-[3-methoxy-5-methylaminomethyl-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-pyridazin-4-yl}-indole-1-carboxylic acid tert-butyl ester | 118 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)C1=C(N=NC(=C1)C1=CC(=C(C(=C1)CNC)OCOCC[Si](C)(C)C)OC)OC | C33H44N4O6Si
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 6-(4-Hydroxy-3-methoxy-5-methylaminomethyl-phenyl)-4-(1H-indol-2-yl)-2H-pyridazin-3-one | OC1=C(C=C(C=C1CNC)C=1C=C(C(NN1)=O)C=1NC2=CC=CC=C2C1)OC | C21H20N4O3
